US07612101B2
Preparation of 1-Cyclohexyl-piperidine-2,4-dione
1-Cyclohexyl-2,4-dioxo-piperidine-3-carboxylic acid ethyl ester (3.1 g, 11.6 mmol) was heated with water (0.25 ml, 13.9 mmol) in nitromethane (30 ml) at 95° C. for 1 hour. The solution was concentrated to give an off-white solid weighing 2.3 g (93%). A sample was recrystallised from toluene.

reactant | 1-Cyclohexyl-2,4-dioxo-piperidine-3-carboxylic acid ethyl ester | 11.6 mmol, 3.1 g | C(C)OC(=O)C1C(N(CCC1=O)C1CCCCC1)=O | C14H21NO4
reactant | water | 13.9 mmol, 0.25 ml | O | H2O
solvent | nitromethane | 30 ml | [N+](=O)([O-])C | CH3NO2
product | 1-Cyclohexyl-piperidine-2,4-dione | C1(CCCCC1)N1C(CC(CC1)=O)=O | C11H17NO2
